US06051712
A dispersion of 4.52 g (16.8 mmol) of 1'-benzyl-2',3',5',6'-tetrahydro-1'H-[3,4']bipyridinyl-4'-ol and 18 g (71 mmol) of potassium disulphate in 35 ml of decalin was stirred at 190° C. for 30 minutes. After cooling to room temperature the reaction mixure was dissolved in water and extracted twice with 50 ml of toluene each time. Subsequently, the aqueous phase was made alkaline with sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate phase was thereafter dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude product was chromatographed on silica gel using a 98:2:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There were obtained 4.03 g (61% of theory) of 1'-benzyl-1',2',3',6'-tetrahydro-3,4'-bipyridine as a yellowish oil; MS: 250 (M)+.

reactant | 1'-benzyl-2',3',5',6'-tetrahydro-1'H-[3,4']bipyridinyl-4'-ol | 16.8 mmol, 4.52 g | C(C1=CC=CC=C1)N1CCC(CC1)(C=1C=NC=CC1)O | C17H20N2O
reactant | potassium disulphate | 71 mmol, 18 g | S(=O)(=O)([O-])OS(=O)(=O)[O-].[K+].[K+]
solvent | decalin | 35 ml | C1CCCC2CCCCC12 | C10H18
solvent | water | O | H2O
product | 1'-benzyl-1',2',3',6'-tetrahydro-3,4'-bipyridine | 4.03 g, 61% | C(C1=CC=CC=C1)N1CCC(=CC1)C=1C=NC=CC1 | C17H18N2
